US07199135B2
tert-Butyl 4-[5-(ISOBUTYRYLAMINO)-2-METHOXYPHENYL]-1-PIPERIDINECARBOXYLATE:
Using the methods described above, the following additional intermediates were synthesized. N-[4-METHOXY-3-(4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE: ESMS m/e: 277.2 (M+H)+. N-[4-FLUORO-3-(4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE: ESMS m/e: 265.2 (M+H)+. N-[2-FLUORO-5-(4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE: ESMS m/e: 265.4 (M+H)+. N-[4-FLUORO-3-(4-PIPERIDINYL)PHENYL]BUTANAMIDE: ESMS m/e: 265.2 (M+H)+. N-[2-FLUORO-5-(4-PIPERIDINYL)PHENYL]BUTANAMIDE: ESMS m/e: 265.4 (M+H)+. N-[4-METHOXY-3-(4-PIPERIDINYL)PHENYL]BUTANAMIDE: 1H NMR (400 MHz, CD3OD) δ 7.34 (dd, 1H, J=8.1, 3.3 Hz), 7.25 (d, 1H, J=3.3 Hz), 6.82 (d, 1H, J=8.1 Hz), 3.76 (s, 3H), 3.10–2.92 (m, 4H), 2.66 (dt, 2H, J=12.6, 2.6 Hz), 2.64–2.56 (m, 1H), 2.27 (t, 2H, J=7.4 Hz), 1.76–1.44 (m, 6H), 0.95 (t, 3H, J=7.4 Hz).

reactant | N-[4-METHOXY-3-(4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | COC1=C(C=C(C=C1)NC(C(C)C)=O)C1CCNCC1 | C16H24N2O2
reactant | N-[4-FLUORO-3-(4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=C(C=C(C=C1)NC(C(C)C)=O)C1CCNCC1 | C15H21FN2O
reactant | N-[2-FLUORO-5-(4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=C(C=C(C=C1)C1CCNCC1)NC(C(C)C)=O | C15H21FN2O
reactant | N-[4-FLUORO-3-(4-PIPERIDINYL)PHENYL]BUTANAMIDE | FC1=C(C=C(C=C1)NC(CCC)=O)C1CCNCC1 | C15H21FN2O
reactant | N-[2-FLUORO-5-(4-PIPERIDINYL)PHENYL]BUTANAMIDE | FC1=C(C=C(C=C1)C1CCNCC1)NC(CCC)=O | C15H21FN2O
reactant | N-[4-METHOXY-3-(4-PIPERIDINYL)PHENYL]BUTANAMIDE | COC1=C(C=C(C=C1)NC(CCC)=O)C1CCNCC1 | C16H24N2O2
product | tert-Butyl 4-[5-(ISOBUTYRYLAMINO)-2-METHOXYPHENYL]-1-PIPERIDINECARBOXYLATE | C(C(C)C)(=O)NC=1C=CC(=C(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C21H32N2O4
